US09169254B2
A suspension solution of ethyltriphenylphosphonium bromide (1079.3 mg, 2.907 mmol) in THF (10 mL) was cooled to 0° C. LHMDS (2.781 mL, 2.781 mmol, 1.0 M in THF) was added dropwise, and the mixture was stirred for 30 minutes. A solution of 3-formyl-benzoic acid methyl ester (415.0 mg, 2.528 mmol) in THF (2.5 mL) was then added dropwise, and the mixture was stirred for 10 minutes and then stirred at room temperature overnight. The reaction mixture was quenched by adding a saturated aqueous ammonium chloride solution and then extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 3-propenyl-benzoic acid methyl ester as a yellow transparent oily substance (218.2 mg, 49%).

reactant | LHMDS | 2.781 mmol, 1.0 M, 2.781 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3-formyl-benzoic acid methyl ester | 2.528 mmol, 415.0 mg | COC(C1=CC(=CC=C1)C=O)=O | C9H8O3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
catalyst | ethyltriphenylphosphonium bromide | 2.907 mmol, 1079.3 mg | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-propenyl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=CC)=O | C11H12O2
